US05166347
Preparation of N-cyano-N'-(2-nitroxyethyl)-3-furancarboximidamide
Methyl N-cyano-3-furancarboximidate (0.5 g, 3.3 mmol) was dissolved in methanol (10 ml), and 2 nitroxyethylamine nitrate (0.84 g, 5.0 mmol) and sodium methoxide (0.27 g, 5.0 mmol) were added. The mixture was stirred at room temperature for 26 hours. After the reaction was completed, the reaction solution was concentrated under reduced pressure, and the residue thus obtained was extracted with chloroform (60 ml×3). The chloroform layer was washed with water (100 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residual concentrate was subjected to chromatography on a silica gel column (WAKO GEL C 200, 20 g) eluting with chloroform-methanol (100:1). The eluted fractions were concentrated under reduced pressure and crystallized from methanol-diethyl ether to give the title compound (0.06 g, 0.27 mmol, yield: 8%) as colorless crystals.

reactant | Methyl N-cyano-3-furancarboximidate | 3.3 mmol, 0.5 g | C(#N)N=C(OC)C1=COC=C1 | C7H6N2O2
reactant | nitroxyethylamine nitrate | 5.0 mmol, 0.84 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | sodium methoxide | 5.0 mmol, 0.27 g | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-(2-nitroxyethyl)-3-furancarboximidamide | 0.27 mmol, 0.06 g, yield: 8% | C(#N)NC(=NCCO[N+](=O)[O-])C1=COC=C1 | C8H8N4O4
